US06593330B2
Step 1: 2-Chloro-6-{[4-(trifluoromethyl)benzyl]oxy}pyrazine
The title compound was prepared according to the procedure of example 4, step 1 starting from 2,6-dichloropyrazine (444 mg, 3.00 mmol) and 4-trifluoromethylbenzyl alcohol (581 mg, 3.30 mmol) and NaH (55% in mineral oil, 144 mg, 3.30 mmol). Recrystallization from hexane gave 0.81 g (93%) of the title compound: mp 67-69° C. MS m/z 289 (M+H)+. Anal. (C12H8ClF3N2O) C, H, N.

reactant | 2,6-dichloropyrazine | 3.00 mmol, 444 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-trifluoromethylbenzyl alcohol | 3.30 mmol, 581 mg | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | NaH | 3.30 mmol, 144 mg | [H-].[Na+]
product | 2-Chloro-6-{[4-(trifluoromethyl)benzyl]oxy}pyrazine | 0.81 g, 93% | ClC1=NC(=CN=C1)OCC1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2O
